US09328091B2
n-Butyl lithium (16 mL, 2.5M solution in hexanes, 39.9 mmol) was added to a solution of 1-bromo-4-chlorobenzene (8.62 g, 45.0 mmol) in anhydrous THF (100 mL) at −78° C. under nitrogen. After 30 minutes at −78° C., 1-Boc-piperidone (6.62 g, 33.2 mmol) was added dropwise as a solution in anhydrous THF (5 mL). After 30 minutes at −78° C., the reaction was quenched with a saturated NH4Cl solution (100 mL), extracted with EtOAc (2×100 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude product was purified by silica gel chromatography, eluting with EtOAc/hexane (0-40%) to give tert-butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate (7.64 g, 74% yield). 1H NMR (CDCl3, 400 MHz) δ 7.38 (d, J=7.2 Hz, 2H), 7.15 (d, J=7.3 Hz, 2H), 3.94 (br s, 2H), 3.18 (br s, 2H), 1.89 (br s, 2H), 1.46 (s, 11H). LCMS: M+1 312.2.

reactant | n-Butyl lithium | 39.9 mmol, 2.5M, 16 mL | C(CCC)[Li]
reactant | 1-bromo-4-chlorobenzene | 45.0 mmol, 8.62 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | 1-Boc-piperidone | 33.2 mmol, 6.62 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate | 7.64 g, 74% yield | ClC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C16H22ClNO3
